US07067667B2
7-(3-Chlorobenzylamino)ethyl-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one
A solution of 0.19 g (0.82 mmol) of 7-hydroxyethyl-1,2,3,3a,5,9b-hexahydro-cyclopenta[c]quinolin-4-one in 20 ml of dichloromethane is mixed at 0° C. with 0.38 g (0.90 mmol) of 1,1,1-triacetoxy-1,1-dihydro-1,2-benziodoxol-3(1H)-one (D. B. Dess, J. C. Martin, J. Am. Chem. Soc. 1991, 113, 7277). The batch is stirred for 10 minutes at 0° C. and for 40 minutes at room temperature, diluted with dichloromethane (100 ml), washed with saturated NaHCO3 (30 ml), dried (Na2SO4) and concentrated by evaporation in a vacuum. The residue is dissolved in 1,2-dichloroethane (20 ml) and mixed with 0.11 ml (0.90 mmol) of 3-chlorobenzylamine, 0.30 g (1.40 mmol) of sodium (triacetoxy)borohydride and 0.05 ml (0.85 mmol) of acetic acid. After 20 hours at room temperature, the batch is diluted with ethyl acetate (150 ml), washed with water (2×50 ml), dried (Na2SO4) and concentrated by evaporation in a vacuum. Column chromatography on silica gel with dichloromethane-ethanol yields 69 mg of product.

reactant | 7-hydroxyethyl-1,2,3,3a,5,9b-hexahydro-cyclopenta[c]quinolin-4-one | 0.82 mmol, 0.19 g | OCCC=1C=CC=2C3C(C(NC2C1)=O)CCC3 | C14H17NO2
reactant | 1,1,1-triacetoxy-1,1-dihydro-1,2-benziodoxol-3(1H)-one | 0.90 mmol, 0.38 g | CC(=O)OI1(C2=CC=CC=C2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | 3-chlorobenzylamine | 0.90 mmol, 0.11 ml | ClC=1C=C(CN)C=CC1 | C7H8ClN
reactant | sodium (triacetoxy)borohydride | 1.40 mmol, 0.30 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 0.85 mmol, 0.05 ml | C(C)(=O)O | C2H4O2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | 7-(3-Chlorobenzylamino)ethyl-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one | 69 mg | ClC=1C=C(CNCCC=2C=CC=3C4C(C(NC3C2)=O)CCC4)C=CC1 | C21H23ClN2O
